2176-08-05 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2176-8-4**] 10:30 AM
 BLOOD CULTURED - At [**2176-8-4**] 01:25 PM
 SPUTUM CULTURE - At [**2176-8-4**] 01:25 PM
 URINE CULTURE - At [**2176-8-4**] 01:25 PM
 ARTERIAL LINE - STOP [**2176-8-4**] 04:37 PM
 ARTERIAL LINE - START [**2176-8-4**] 06:11 PM
 FEVER - 101.8
F - [**2176-8-4**] 12:00 PM
   [**2176-7-4**]
   -EGD showed AVMs not currently bleeding but likely responsible. GI will
   [**First Name8 (NamePattern2) **] [**Last Name (un) **] in the am to confirm no other source of bleeding. prepping
   overnight tonight.
   -spiked a temp to 101 and we added cefepime and vanc
   -CT abd to r/o RP bleed: "1. Indeterminate density of ascites suggest
   there may be hemorrhagic or proteinaceous ascites. However there is no
   evidence of retroperitoneal hematoma.
   2. Anasarca.
   3. Massive cardiomegaly.
   4. Mildly atrophic kidneys.
   -head CT: "Non-specific hepatic hypodensity; consider US to
   characterize if not previously characterized."
   -IMPRESSION: No acute intracranial process. Partial opacification of
   the mastoid air cells may be chronic, but this is of unclear time line
   given lack of priors. Correlate clinically."
   -renal consulted: they will follow, will not start HD now. did see
   muddy brown casts in sediment c/w ATN. recommend EKG if hyperkalemic
   and renally dose all meds for GFR <10: cefepime decreased to 250q24,
   vanc trough ordered for am
   -lost a line and placed a new one
   -blood cx and urine cx pending
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2176-8-4**] 04:30 PM
   Vancomycin - [**2176-8-4**] 05:00 PM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl (Concentrate) - 35 mcg/hour
   Norepinephrine - 0.23 mcg/Kg/min
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2176-8-4**] 05:30 PM
   Midazolam (Versed) - [**2176-8-4**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-8-5**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.1
C (97
   HR: 66 (60 - 89) bpm
   BP: 114/51(74) {65/36(49) - 132/83(94)} mmHg
   RR: 22 (20 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  7,371 mL
                                                                  4,331 mL
   PO:
             TF:
   IVF:
                                                                  4,393 mL
                                                                    331 mL
   Blood products:
                                                                  2,878 mL
   Total out:
                                                                  1,380 mL
                                                                    740 mL
   Urine:
                                                                  1,380 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,991 mL
                                                                  3,591 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 526
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.33/36/139/19/-6
   Ve: 8.4 L/min
   PaO2 / FiO2: 348
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   73 K/uL
   9.9 g/dL
   138 mg/dL
   3.0 mg/dL
   19 mEq/L
   4.2 mEq/L
   111 mg/dL
   113 mEq/L
   145 mEq/L
   29.7 %
   8.8 K/uL
        [image002.jpg]
                             [**2176-8-4**]  06:21 AM
                             [**2176-8-4**]  10:29 AM
                             [**2176-8-4**]  11:24 AM
                             [**2176-8-4**]  01:59 PM
                             [**2176-8-4**]  06:15 PM
                             [**2176-8-4**]  06:36 PM
                             [**2176-8-4**]  10:53 PM
                             [**2176-8-4**]  11:19 PM
                             [**2176-8-5**]  04:47 AM
                             [**2176-8-5**]  04:59 AM
   WBC
   8.8
   Hct
   32
   30.1
   30.9
   30.0
   31.8
   29.7
   Plt
   73
   Cr
   3.9
   3.3
   3.0
   TropT
   0.11
   TCO2
   15
   18
   18
   19
   20
   Glucose
   109
   130
   138
   Other labs: PT / PTT / INR:18.5/36.4/1.7, CK / CKMB /
   Troponin-T:455/18/0.11, ALT / AST:32/72, Alk Phos / T Bili:60/1.5,
   Differential-Neuts:90.0 %, Band:0.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0
   %, Fibrinogen:266 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL,
   LDH:323 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:5.2 mg/dL
   Fluid analysis / Other labs: D-Dimer: >[**Numeric Identifier 1804**]
   Imaging: CT/abd
   1. Indeterminate density of ascites suggest there may be hemorrhagic or
   proteinaceous ascites. However there is no evidence of retroperitoneal
   hematoma.
   2. Anasarca.
   3. Massive cardiomegaly.
   4. Mildly atrophic kidneys.
   5. Non-specific hepatic hypodensity; consider US to characterize if not
   previously characterized.
   EGD
   It is difficult to determine if the 2 non-bleeding AVM's seen in the
   stomach today are the source of the GIB. They were very friable and in
   the setting of the patient's supratherapeutic INR, could certainly have
   bleed significantly. However, it is also possible that the patient may
   have another source of bleeding-- ie. colonic or other small bowel
   AVMs.
   CT head
   No acute intracranial hemorrhage.
   Microbiology: [**2176-8-4**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-PRELIMINARY INPATIENT
   [**2176-8-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2176-8-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2176-8-4**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2176-8-4**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2176-8-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2176-8-4**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Ms. [**Location (un) 8721**] is a 77 yo w/o history of CHF, Afib on coumadin,
   presenting with GI bleeding and hypotension.
   #  Acute blood loss anemia/GI bleed/Hypovolemic shock - Patient with
   melanotic stools for in the setting of supratherapeutic INR.  Shock
   most likely secondary to large volume blood loss.  EGD showed AVM's in
   the stomach. Hct has been stable at 30 s/p 9 total units PRBC.
   - As per GI, cannot definitively say that AVM's in stomach were the
   cause of bleed- may still have small bowel AVM's/bleed in large bowel.
   Will need [**Last Name (un) **] this AM and being prepped
   -  on PPI drip; octreotide d/c'ed because no evidence of variceal
   bleed.
   -  target MAP>65,  currently weaning off levophed
   -  hold enalapril, metoprolol, lasix and spironolactone
   -  check hematocrit Q8 today
   .
   #  Respiratory failure - patient intubated in the ED for airway
   protection.  Patient without known underlying lung disease.
   - continue ventilator with AC increased TV from 350 to 400.
   - small tidal volumes - increased risk for ARDS given transfusion.
   - transition to CPAP today after procedure.
   -  consider extubation tomorrow.
   .
   #  Altered mental status - possible secondary to paralytics/sedation
   given in ED and decreased clearance given poor perfusion and ARF.
   Concern re: intracranial hemorrhage.
   - Yesterday patient more awake and biting on ET tube; likely AMS due to
   sedation
   -No IC hemorrhage on CT
   .
   #  Acute renal failure - Likely secondary to ATN. baseline Creatinine
   1.3 now 3. K initially 6.6 now decreased to 4.2.  Pt oliguric on
   arrival, now with much better UOP.
   - Will continue to fluid resusictate and keep MAP>65
   .
   .
   #  Mixed acidosis - patient that an anion gap metabolic acidoses, an
   non-anion gap acidosis likely [**1-1**] diarrhea and fluid losses, ARF, and a
   respiratory acidosis. Now with gap of 13. Most recent lactate 1.6.
   - follow ABGs
   - HCO3 amps PRN to keep pH> 7.25
   .
   #  CAD - EKG with lateral ST changes concerning for ischemic changes
   and possibly demand ishcemia. patient not complaining of CP prior to
   arrival. CE with CK decreased, Trop increased 0.05 to 011
   - increase in troponin not surprising in setting of RF. CK's trending
   down. Would get one more set to make sure trop going down.
   - given possible ischemia transfusion goal is Hct 30.
   .
   # Ascites - abdomen distended and somewhat firm on exam.  No RP on Ct
   abd/pelvis; worried about possible malignancy.
   -Will follow up with Dr. [**Last Name (STitle) 3252**] to better understanding of breast CA
   history.
   .
   # FEN: NPO, IVF
   .
   # Prophylaxis: pneumoboots, PPI
   .
   # Access: 2 peripherals, Aline & Central line.
   .
   # Code: full code, confirmed with son.
   .
   # Communication: Patient & son [**Name (NI) **] [**Name (NI) 744**] [**Numeric Identifier 8722**]
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Trauma line - [**2176-8-4**] 12:01 AM
   20 Gauge - [**2176-8-4**] 01:30 AM
   Arterial Line - [**2176-8-4**] 06:11 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI drip
   VAP:  HOB elevation, mouth care
   Comments:
   Communication:  Comments: son
   [**Name (NI) 156**] status:  full code
   Disposition:  ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She has had a colonoscopy that shows features of ischemic colitis,
   likely source of severe bleed. She has improved hemodynamically and it
   is unclear if mesenteric ischemia is inciting event or secondary to
   profound hypovolemia from GI blood loss. She has started to make
   increasing quantities of urine which is clear. She has not needed
   further transfusion either. If she remains stable hemodynamically later
   today, we will transition to CPAP/ PSV and hopefully work on attempting
   extubation within next 36 hours.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 **]
   [**Location (un) 4113**], KS-B23
   [**Location (un) **], [**Numeric Identifier 4114**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2176-8-5**] 18:32 ------

2176-08-06 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 COLONOSCOPY - At [**2176-8-5**] 11:00 AM
   [**Last Name (un) **]: mult ulcers in sigmoid and descending colon consistent w/
   ischemic colitis, not much to do. not candidate for coumadin again
   blood cx [**8-4**]: GPC's in clusters--> 1 bottle
   CPAP trial: not breathing. not awake, opens eyes barely to sternal rub.
   -Called radiology to further discuss MRI read showing proteinaceous
   ascites - no evidence of peritoneal deposits, no studding, though
   non-contrast is admittedly limited for this purpose.  The ascitic fluid
   is borderline in attenuation - above cutoff for proteinaceous
   fluid/blood, but just barely.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2176-8-4**] 04:30 PM
   Vancomycin - [**2176-8-5**] 12:19 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2176-8-5**] 11:00 AM
   Fentanyl - [**2176-8-5**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-8-6**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 68 (56 - 81) bpm
   BP: 127/59(85) {103/43(62) - 127/61(86)} mmHg
   RR: 20 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                  5,165 mL
                                                                    199 mL
   PO:
             TF:
   IVF:
                                                                  1,165 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  4,290 mL
                                                                    610 mL
   Urine:
                                                                  2,490 mL
                                                                    610 mL
   NG:
   Stool:
                                                                  1,800 mL
   Drains:
   Balance:
                                                                    875 mL
                                                                   -411 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.35/36/135/21/-4
   Ve: 8.5 L/min
   PaO2 / FiO2: 338
   Physical Examination
   Gen: patient opens eyes to voice, does not follow other commands
   CV: regular rate, 3/6 systolic and diastolic murmurs
   Resp: occasional rhonchi b/l, otherwise clear
   Abd: +BS, soft, NT, mild distension
   Ext: 2+pulses, trace edema b/l
   Labs / Radiology
   58 K/uL
   9.4 g/dL
   114 mg/dL
   1.9 mg/dL
   21 mEq/L
   3.7 mEq/L
   74 mg/dL
   119 mEq/L
   151 mEq/L
   28.9 %
   8.1 K/uL
        [image002.jpg]
                             [**2176-8-4**]  06:15 PM
                             [**2176-8-4**]  06:36 PM
                             [**2176-8-4**]  10:53 PM
                             [**2176-8-4**]  11:19 PM
                             [**2176-8-5**]  04:47 AM
                             [**2176-8-5**]  04:59 AM
                             [**2176-8-5**]  11:21 AM
                             [**2176-8-5**]  06:49 PM
                             [**2176-8-5**]  09:10 PM
                             [**2176-8-6**]  03:46 AM
   WBC
   8.8
   8.1
   Hct
   30.0
   31.8
   29.7
   30.4
   29.9
   28.9
   Plt
   73
   58
   Cr
   3.3
   3.0
   2.2
   1.9
   TCO2
   18
   19
   20
   21
   Glucose
   130
   138
   125
   114
   Other labs: PT / PTT / INR:17.4/33.0/1.6, CK / CKMB /
   Troponin-T:455/18/0.11, ALT / AST:32/72, Alk Phos / T Bili:60/1.5,
   Differential-Neuts:90.0 %, Band:0.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0
   %, Fibrinogen:266 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL,
   LDH:323 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Imaging: cxr
   The ET tube is 4.8 cm above the carina. The right IJ Cordis is in
   the SVC. Dense retrocardiac opacification is increased compared to the
   film
   from the prior day with complete obscuration of the left hemidiaphragm.
   There
   are small bilateral effusions.
   Microbiology: [**2176-8-4**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-PRELIMINARY INPATIENT
   [**2176-8-4**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [**2176-8-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2176-8-4**]  BLOOD CULTURE Blood Culture, Routine-PRELIMINARY {GRAM
   POSITIVE COCCUS(COCCI)}; Aerobic Bottle Gram Stain-FINAL INPATIENT
   [**2176-8-4**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2176-8-4**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2176-8-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2176-8-4**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Ms. [**Location (un) 8721**] is a 77 yo w/o history of CHF, Afib on coumadin,
   presenting with GI bleeding and hypotension.
   #  Acute blood loss anemia/GI bleed/Hypovolemic shock - Patient with
   melanotic stools for in the setting of supratherapeutic INR.  Shock
   most likely secondary to large volume blood loss.  EGD showed AVM's in
   the stomach. [**Last Name (un) **] shows ischemic colitis- likely source of bleed in
   setting of elevated INR. Hct has been stable at 30 s/p 9 total units
   PRBC.
   - As per GI, cannot definitively say that AVM's in stomach were the
   cause of bleed- may still have small bowel AVM's/bleed in large bowel.
   [**Last Name (un) **] shows ischemic colitis
   -  on PPI drip, will switch to IV PPI [**Hospital1 **] today.
   -  target MAP>65,  currently weaning off levophed
   -  hold enalapril, metoprolol, lasix and spironolactone
   -  check hematocrit Q8 today
   .
   #  Respiratory failure - patient intubated in the ED for airway
   protection.  Patient without known underlying lung disease.
   - continue ventilator with AC at TV 400
   - small tidal volumes - increased risk for ARDS given transfusion.
   - will consider extubation today if able to wake up more (still quite
   sedated despite fact that propofol has been off all AM)
   .
   # fevers/GPCs in 1 blood cx bottle: cover GPCs c vanc (dosed by levels)
   and cefepime (empiric for fevers). Cefepime dosed for GFR of 11-60.
   Consider also cover for SBP or diagnostic tap if evidence of ascites on
   RUQ ultrasound.
   .
   #  Altered mental status - possible secondary to paralytics/sedation
   given in ED and decreased clearance given poor perfusion and ARF.
   Concern re: intracranial hemorrhage.
   - Yesterday patient more awake and biting on ET tube; likely AMS due to
   sedation
   -No IC hemorrhage on CT
   .
   #  Acute renal failure - Likely secondary to ATN. baseline Creatinine
   1.3 now 1.9. K initially 6.6 now decreased to normal levels. Pt
   oliguric on arrival, now with much better UOP.
   - Will continue to fluid resusictate and keep MAP>65
   .
   #  Mixed acidosis - patient that an anion gap metabolic acidoses, an
   non-anion gap acidosis likely [**1-1**] diarrhea and fluid losses, ARF, and a
   respiratory acidosis. Gap closed.
   - follow ABGs
   - HCO3 amps PRN to keep pH> 7.25
   .
   #  CAD - EKG with lateral ST changes concerning for ischemic changes
   and possibly demand ishcemia. patient not complaining of CP prior to
   arrival. CE with CK decreased, Trop increased 0.05 to 011
   - increase in troponin not surprising in setting of RF. CK's trending
   down. Would get one more set to make sure trop going down.
   - given possible ischemia transfusion goal is Hct 30.
   .
   # Ascites - abdomen distended and somewhat firm on exam.  No RP on Ct
   abd/pelvis; worried about possible malignancy.
   -Will follow up with Dr. [**Last Name (STitle) 3252**] to better understanding of breast CA
   history.
   -f/u RUQ u/s
   .
   # FEN: NPO, IVF
   .
   # Prophylaxis: pneumoboots, PPI
   .
   # Access: Aline & trauma line.
   .
   # Code: full code, confirmed with son.
   .
   # Communication: Patient & son [**Name (NI) **] [**Name (NI) 744**] [**Numeric Identifier 8722**]
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Trauma line - [**2176-8-4**] 12:01 AM
   Arterial Line - [**2176-8-4**] 06:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2176-08-06 12:19:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Blood Loss Anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Colonoscopy c/w ischemic colitis
   Apnea with PSV trial
   24 Hour Events:
 COLONOSCOPY - At [**2176-8-5**] 11:00 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2176-8-4**] 04:30 PM
   Vancomycin - [**2176-8-5**] 12:19 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2176-8-6**] 12:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.2
   HR: 70 (56 - 81) bpm
   BP: 113/50(73) {103/43(62) - 127/60(85)} mmHg
   RR: 14 (8 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                  5,165 mL
                                                                    266 mL
   PO:
             TF:
   IVF:
                                                                  1,165 mL
                                                                    266 mL
   Blood products:
   Total out:
                                                                  4,290 mL
                                                                    830 mL
   Urine:
                                                                  2,490 mL
                                                                    830 mL
   NG:
   Stool:
                                                                  1,800 mL
   Drains:
   Balance:
                                                                    875 mL
                                                                   -564 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 655 (343 - 655) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 10 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.36/39/116/21/-2
   Ve: 5.1 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   58 K/uL
   114 mg/dL
   1.9 mg/dL
   21 mEq/L
   3.7 mEq/L
   74 mg/dL
   119 mEq/L
   151 mEq/L
   28.9 %
   8.1 K/uL
        [image002.jpg]
                             [**2176-8-4**]  06:36 PM
                             [**2176-8-4**]  10:53 PM
                             [**2176-8-4**]  11:19 PM
                             [**2176-8-5**]  04:47 AM
                             [**2176-8-5**]  04:59 AM
                             [**2176-8-5**]  11:21 AM
                             [**2176-8-5**]  06:49 PM
                             [**2176-8-5**]  09:10 PM
                             [**2176-8-6**]  03:46 AM
                             [**2176-8-6**]  08:40 AM
   WBC
   8.8
   8.1
   Hct
   31.8
   29.7
   30.4
   29.9
   28.9
   Plt
   73
   58
   Cr
   3.3
   3.0
   2.2
   1.9
   TCO2
   18
   19
   20
   21
   23
   Glucose
   130
   138
   125
   114
   Other labs: PT / PTT / INR:17.4/33.0/1.6, CK / CKMB /
   Troponin-T:455/18/0.11, ALT / AST:32/72, Alk Phos / T Bili:60/1.5,
   Differential-Neuts:90.0 %, Band:0.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0
   %, Fibrinogen:266 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL,
   LDH:323 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Ms. [**Location (un) 8721**] is a 77 yo w/o history of CHF, Afib on coumadin,
   presenting with GI bleeding and hypotension.
   #  Acute blood loss anemia/GI bleed/Hypovolemic shock - Hct now stable.
   s/p 9 units pRBCs. INR 1.6.  Likely source ischemic colitis [**1-1**]
   hypovolemia from diarrhea preceding GI bleed.  PPI.
   #  Respiratory failure - Now on PSV 5/5.  Arousable but not following
   commands - sedation off since last PM.  Will allow her to wake up a bit
   more and attempt to extubate today.
   #Fever: Now afebrile: D/C cefepime.  Will keep vanco on board, adjust
   for improving renal function until [**12-3**] GPCs in blood speciated.
   #Hypernatremia: Correct with D5W.
   #Ascites: will need workup at some point.  liver u/s to mark ascites.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Trauma line - [**2176-8-4**] 12:01 AM
   Arterial Line - [**2176-8-4**] 06:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2176-08-06 18:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 COLONOSCOPY - At [**2176-8-5**] 11:00 AM
   [**Last Name (un) **]: mult ulcers in sigmoid and descending colon consistent w/
   ischemic colitis, not much to do. not candidate for coumadin again
   blood cx [**8-4**]: GPC's in clusters--> 1 bottle
   CPAP trial: not breathing. not awake, opens eyes barely to sternal rub.
   -Called radiology to further discuss MRI read showing proteinaceous
   ascites - no evidence of peritoneal deposits, no studding, though
   non-contrast is admittedly limited for this purpose.  The ascitic fluid
   is borderline in attenuation - above cutoff for proteinaceous
   fluid/blood, but just barely.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2176-8-6**] 12:00 PM
   Cefipime - [**2176-8-6**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-8-6**] 06:21 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 79 (60 - 81) bpm
   BP: 132/76(98) {98/41(60) - 132/76(98)} mmHg
   RR: 20 (8 - 29) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                  5,165 mL
                                                                    979 mL
   PO:
             TF:
   IVF:
                                                                  1,165 mL
                                                                    979 mL
   Blood products:
   Total out:
                                                                  4,290 mL
                                                                  1,170 mL
   Urine:
                                                                  2,490 mL
                                                                  1,170 mL
   NG:
   Stool:
                                                                  1,800 mL
   Drains:
   Balance:
                                                                    875 mL
                                                                   -191 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 655 (343 - 655) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 10 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.36/39/116/24/-2
   Ve: 5.1 L/min
   PaO2 / FiO2: 116
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic,
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   58 K/uL
   9.4 g/dL
   141 mg/dL
   1.6 mg/dL
   24 mEq/L
   3.8 mEq/L
   63 mg/dL
   122 mEq/L
   153 mEq/L
   27.7 %
   8.1 K/uL
        [image002.jpg]
                             [**2176-8-4**]  10:53 PM
                             [**2176-8-4**]  11:19 PM
                             [**2176-8-5**]  04:47 AM
                             [**2176-8-5**]  04:59 AM
                             [**2176-8-5**]  11:21 AM
                             [**2176-8-5**]  06:49 PM
                             [**2176-8-5**]  09:10 PM
                             [**2176-8-6**]  03:46 AM
                             [**2176-8-6**]  08:40 AM
                             [**2176-8-6**]  03:11 PM
   WBC
   8.8
   8.1
   Hct
   31.8
   29.7
   30.4
   29.9
   28.9
   27.7
   Plt
   73
   58
   Cr
   3.3
   3.0
   2.2
   1.9
   1.6
   TCO2
   19
   20
   21
   23
   Glucose
   130
   138
   125
   114
   141
   Other labs: PT / PTT / INR:17.4/33.0/1.6, CK / CKMB /
   Troponin-T:455/18/0.11, ALT / AST:32/72, Alk Phos / T Bili:60/1.5,
   Differential-Neuts:90.0 %, Band:0.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0
   %, Fibrinogen:266 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL,
   LDH:323 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Imaging: cxr
   As compared to the previous radiograph, the monitoring and support
   devices are unchanged. Also unchanged is the enlargement of the cardiac
   silhouette, increase in the carina angle, potentially suggesting
   further
   enlargement of the left atrium. The retrocardiac atelectasis is
   unchanged.
   Also unchanged is the blunting of the left costophrenic sinus. No newly
   occurred focal parenchymal opacities suggesting pneumonia.
   Microbiology: [**2176-8-4**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-PRELIMINARY INPATIENT
   [**2176-8-4**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [**2176-8-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2176-8-4**]  BLOOD CULTURE Blood Culture, Routine-PRELIMINARY
   {STAPHYLOCOCCUS, COAGULASE NEGATIVE}; Aerobic Bottle Gram Stain-FINAL
   INPATIENT
   [**2176-8-4**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2176-8-4**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2176-8-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2176-8-4**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   #  Acute blood loss anemia/GI bleed/Hypovolemic shock - Patient with
   melanotic stools for in the setting of supratherapeutic INR.  Shock
   most likely secondary to large volume blood loss.  EGD showed AVM's in
   the stomach. [**Last Name (un) **] with ischemic colitis which is likely source of bleed
   in light of elevated INR. Hct has been stable at 30 s/p 9 total units
   PRBC.
   - As per GI, likely that ischemic colitis in setting of high INR caused
   bleed. Hct has been stable.
   -  switched from PPI drip to IV PPI [**Hospital1 **] today
   -  target MAP>65,  currently weaning off levophed
   -  hold enalapril, metoprolol, lasix and spironolactone
   -  check hematocrit Q12 today
   #  Respiratory failure - patient intubated in the ED for airway
   protection.  Patient without known underlying lung disease.
   - continue ventilator with AC increased TV from 350 to 400.
   - small tidal volumes - increased risk for ARDS given transfusion.
   - consider extubation when more awake
   .
   #  Altered mental status - possible secondary to paralytics/sedation
   given in ED and decreased clearance given poor perfusion and ARF.
   Concern re: intracranial hemorrhage.
   -No IC hemorrhage on CT
   -can extubate when mental status clears more
   .
   #  Acute renal failure - Likely secondary to ATN. baseline Creatinine
   1.3 now 1.6.  Pt oliguric on arrival, now with much better UOP.
   - Will continue to keep MAP>65
   # Ascites - abdomen distended and somewhat firm on exam.  No RP on Ct
   abd/pelvis; worried about possible malignancy.
   -Has not had workup for ascities/increased bili in the past, also with
   hypodensity in liver
   -will get RUQ ultrasound to further evaluate for malignant source of
   ascites
   .
   # FEN: NPO, IVF
   .
   # Prophylaxis: pneumoboots, PPI
   .
   # Access: Aline & Central line.  (will d/c central line today)
   .
   # Code: full code, confirmed with son.
   .
   # Communication: Patient & son [**Name (NI) **] [**Name (NI) 744**] [**Numeric Identifier 8722**]
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Trauma line - [**2176-8-4**] 12:01 AM
   Arterial Line - [**2176-8-4**] 06:11 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:  HOB elevation, mouth care
   Comments:
   Communication:  Comments: son
   [**Name (NI) 156**] status: FULL
   Disposition: ICU

2176-08-07 06:55:00 Physician Resident Progress Note
Chief Complaint:
   Acute blood loss anemia/GI bleed/Hypovolemic shock - Patient with
   melanotic stools for in the setting of supratherapeutic INR.  Shock
   most likely secondary to large volume blood loss.  EGD showed AVM's in
   the stomach. [**Last Name (un) **] with ischemic colitis which is likely source of bleed
   in light of elevated INR.
   24 Hour Events:
   -extubated; doing well with swallowing as per nursing (no speech and
   swallow eval in)
   -IJ not pulled because PICC could not be placed today (will get it
   tomorrow)
   -Hypernatremic- on D5W and drinking water
   -Had abdominal ultrasound to evaluate for ascites and possible
   malignancy contributing; U/S showed trace ascites
   -CXR this morning shows increase in pulmonary congestion bilaterally
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2176-8-6**] 12:00 PM
   Cefipime - [**2176-8-6**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-8-7**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 70 (58 - 79) bpm
   BP: 124/57(82) {94/38(58) - 132/94(110)} mmHg
   RR: 20 (8 - 20) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                  1,466 mL
                                                                    716 mL
   PO:
                                                                     60 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,406 mL
                                                                    566 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    440 mL
   Urine:
                                                                  1,610 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -144 mL
                                                                    276 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 655 (343 - 655) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.36/39/116/24/-2
   Ve: 5.1 L/min
   PaO2 / FiO2: 116
   Physical Examination
   Alert, oriented, comfortable, denies SOB.  Very hard of hearing.
   Good air movement bilaterally in anterior lung fields.  Musical
   inspiratory wheeze on right.
   RRR, no audible murmurs.
   Abdomen soft, non-tender, obese.
   1+ pedal edema.
   Labs / Radiology
   49 K/uL
   8.5 g/dL
   132 mg/dL
   1.4 mg/dL
   24 mEq/L
   3.8 mEq/L
   52 mg/dL
   120 mEq/L
   152 mEq/L
   26.4 %
   5.4 K/uL
        [image002.jpg]
                             [**2176-8-4**]  11:19 PM
                             [**2176-8-5**]  04:47 AM
                             [**2176-8-5**]  04:59 AM
                             [**2176-8-5**]  11:21 AM
                             [**2176-8-5**]  06:49 PM
                             [**2176-8-5**]  09:10 PM
                             [**2176-8-6**]  03:46 AM
                             [**2176-8-6**]  08:40 AM
                             [**2176-8-6**]  03:11 PM
                             [**2176-8-7**]  01:30 AM
   WBC
   8.8
   8.1
   5.4
   Hct
   29.7
   30.4
   29.9
   28.9
   27.7
   26.4
   Plt
   73
   58
   49
   Cr
   3.0
   2.2
   1.9
   1.6
   1.4
   TCO2
   19
   20
   21
   23
   Glucose
   138
   125
   114
   141
   132
   Other labs: PT / PTT / INR:16.3/32.0/1.4, CK / CKMB /
   Troponin-T:455/18/0.11, ALT / AST:32/72, Alk Phos / T Bili:60/1.5,
   Differential-Neuts:90.0 %, Band:0.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0
   %, Fibrinogen:266 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL,
   LDH:323 IU/L, Ca++:8.4 mg/dL, Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 HYPERNATREMIA (HIGH SODIUM)
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   #  Acute blood loss anemia/GI bleed/Hypovolemic shock
 hematocrit
   stable
 trending down very slowly, but no signs of active bleed
   currently.
   - As per GI, likely that ischemic colitis in setting of high INR caused
   bleed. Hct has been stable.
   -  switched from PPI drip to IV PPI [**Hospital1 **]
   - now off pressors
   -  hold metoprolol and spironolactone. Restart enalapril and lasix
   -  check hematocrit Q12 today
   #  Respiratory failure - patient intubated in the ED for airway
   protection, extubated yesterday successfully.  Still volume overloaded
   on cxr. TBB goal -1L to 1.5L.
   -CXR findings this morning likely due to massive transfusion, fluid
   resuscitation.  Also have been holding home diuretics.
   -pna unlikely will dc vanc/cefepime
   -Begin Lasix, as above.
   .
   #  Altered mental status
 now resolved.  Previous symptoms possible
   secondary to paralytics/sedation given in ED and decreased clearance
   given poor perfusion and ARF.  Previous concern re: intracranial
   hemorrhage.
   -No IC hemorrhage on CT
   .
   #  Acute renal failure - Likely secondary to ATN, resolving. baseline
   Creatinine 1.3 now 1.4.  Pt oliguric on arrival, now with much better
   UOP.
   - Will continue to keep MAP>65, monitor UOP and creatinine.
   # Ascites - abdomen distended and somewhat firm on exam.  No RP on Ct
   abd/pelvis; worried about possible malignancy.
   -Has not had workup for ascities/increased bili in the past, also with
   hypodensity noted in liver
   RUQ yesterday
 shows minimal ascites
   -ascites also likely secondary to fluid overload after resuscitation.
   .
   #hypernatremia: continue D5W, plan to give water PO when passes S&S
   .
   # FEN: NPO, IVF
   .
   # Prophylaxis: pneumoboots, PPI
   .
   # Access: Aline & Central line.  (will d/c central line today)
   .
   # Code: full code, confirmed with son.
   .
   # Communication: Patient & son [**Name (NI) **] [**Name (NI) 744**] [**Numeric Identifier 8722**]
   .
   # Disposition: ICU  - likely call out this afternoon after PICC
   placement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Trauma line - [**2176-8-4**] 12:01 AM
   Arterial Line - [**2176-8-4**] 06:11 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:  discussed today with patient
   Code status: Full code
   Disposition:  probably call out today after PICC placement, DC trauma
   line.

2176-08-07 11:46:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday
   24 Hour Events:
   Trace ascites on abdominal ultrasound
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2176-8-6**] 04:00 PM
   Vancomycin - [**2176-8-7**] 10:01 AM
   Infusions:
   Other ICU medications:
   Other medications:
   pre ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2176-8-7**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 66 (58 - 79) bpm
   BP: 140/70(274) {94/38(58) - 140/104(274)} mmHg
   RR: 19 (8 - 20) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                  1,466 mL
                                                                  1,409 mL
   PO:
                                                                     60 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,406 mL
                                                                  1,229 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    830 mL
   Urine:
                                                                  1,610 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -144 mL
                                                                    579 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Wheezes : slight at late inspiration on R)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, R arm swelling aroud iv site
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   49 K/uL
   132 mg/dL
   1.4 mg/dL
   24 mEq/L
   3.8 mEq/L
   52 mg/dL
   120 mEq/L
   152 mEq/L
   26.4 %
   5.4 K/uL
        [image002.jpg]
                             [**2176-8-4**]  11:19 PM
                             [**2176-8-5**]  04:47 AM
                             [**2176-8-5**]  04:59 AM
                             [**2176-8-5**]  11:21 AM
                             [**2176-8-5**]  06:49 PM
                             [**2176-8-5**]  09:10 PM
                             [**2176-8-6**]  03:46 AM
                             [**2176-8-6**]  08:40 AM
                             [**2176-8-6**]  03:11 PM
                             [**2176-8-7**]  01:30 AM
   WBC
   8.8
   8.1
   5.4
   Hct
   29.7
   30.4
   29.9
   28.9
   27.7
   26.4
   Plt
   73
   58
   49
   Cr
   3.0
   2.2
   1.9
   1.6
   1.4
   TCO2
   19
   20
   21
   23
   Glucose
   138
   125
   114
   141
   132
   Other labs: PT / PTT / INR:16.3/32.0/1.4, CK / CKMB /
   Troponin-T:455/18/0.11, ALT / AST:32/72, Alk Phos / T Bili:60/1.5,
   Differential-Neuts:90.0 %, Band:0.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0
   %, Fibrinogen:266 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL,
   LDH:323 IU/L, Ca++:8.4 mg/dL, Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Ms. [**Location (un) 8721**] is a 77 yo w/o history of CHF, Afib on coumadin,
   presenting with GI bleeding and hypotension.
   #  Acute blood loss anemia/GI bleed/Hypovolemic shock: Some slow drift
   in Hct but looks clinically well.  PPI
   #  Respiratory failure - Extubated and doing well.  Does have some
   increased edema and effusion on R on CXR - likely due to removal of
   positive pressure.  Diuresis 1L neg today.  O2 sats in high 90s on 1.5L
   O2
   #Fever: D/C vanc/cefepime.
   #Hypernatremia: fH20 repletion
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Trauma line - [**2176-8-4**] 12:01 AM
   Arterial Line - [**2176-8-4**] 06:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:

2176-08-08 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2176-8-7**] 02:25 PM
 PICC LINE - START [**2176-8-7**] 03:39 PM
   placed in IR
 TRAUMA LINE - STOP [**2176-8-7**] 11:00 PM
 EKG - At [**2176-8-8**] 06:02 AM
   -S+S never came, but nsg thought swallow ok so advanced diet
   -1300cc neg at midnight (rec'd lasix 40 [**Hospital1 **])
   -picc placed and trauma line d/ced
   -pt oozed after picc placement, therefore gave plts for plt count of
   49. However, on recheck, plts were only 50. So sent hemolysis and
   thrombocytopenia labs and kept in unit overnight. Will plan for early
   am call out if coags normal
   -trauma line out without significant ooze
   -INR and PTT normal. LDH normal. ddimer elevated. tbili up at ~6 from
   ~1 on admission
   -brady down to 30s ~6am, several other brady episodes ? do not see p
   waves on ekg. In setting of low K and low Mg
   -gave prn seroquel for agitation... not sure if nsg used it
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2176-8-6**] 04:00 PM
   Vancomycin - [**2176-8-7**] 10:01 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2176-8-7**] 06:30 PM
   Pantoprazole (Protonix) - [**2176-8-7**] 11:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-8-8**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 56 (29 - 81) bpm
   BP: 110/42(57) {94/38(53) - 131/64(79)} mmHg
   RR: 16 (12 - 21) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                  3,012 mL
                                                                  1,026 mL
   PO:
                                                                    870 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  1,942 mL
                                                                     26 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  4,320 mL
                                                                  1,220 mL
   Urine:
                                                                  4,320 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,308 mL
                                                                   -194 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   Gen: HOH, oriented
   CV: systolic and diastolic murmur
   Resp: CTA anteriorly
   Abd: soft
   Ext: 2+peripheral edema, pitting
   Labs / Radiology
   38 K/uL
   8.5 g/dL
   94 mg/dL
   1.1 mg/dL
   31 mEq/L
   3.4 mEq/L
   32 mg/dL
   113 mEq/L
   149 mEq/L
   26.1 %
   4.1 K/uL
        [image002.jpg]
                             [**2176-8-5**]  06:49 PM
                             [**2176-8-5**]  09:10 PM
                             [**2176-8-6**]  03:46 AM
                             [**2176-8-6**]  08:40 AM
                             [**2176-8-6**]  03:11 PM
                             [**2176-8-7**]  01:30 AM
                             [**2176-8-7**]  02:26 PM
                             [**2176-8-7**]  06:45 PM
                             [**2176-8-7**]  11:15 PM
                             [**2176-8-8**]  02:59 AM
   WBC
   8.1
   5.4
   4.1
   Hct
   29.9
   28.9
   27.7
   26.4
   28.9
   27.2
   26.1
   Plt
   58
   49
   49
   38
   Cr
   2.2
   1.9
   1.6
   1.4
   1.2
   1.1
   TCO2
   21
   23
   Glucose
   125
   114
   141
   132
   134
   94
   Other labs: PT / PTT / INR:15.4/30.5/1.4, CK / CKMB /
   Troponin-T:455/18/0.11, ALT / AST:34/53, Alk Phos / T Bili:61/6.2,
   Differential-Neuts:90.0 %, Band:0.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0
   %, D-dimer:[**Numeric Identifier 8783**] ng/mL, Fibrinogen:237 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.9 g/dL, LDH:245 IU/L, Ca++:8.5 mg/dL, Mg++:1.3 mg/dL, PO4:2.0
   mg/dL
   Microbiology: coag neg staph from [**8-5**]. presumed to be contam. currently
   off abx.
   Assessment and Plan
 BRADYCARDIA
 IMPAIRED SKIN INTEGRITY
 HYPERNATREMIA (HIGH SODIUM)
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   #thrombocytopenia/hyperbilirubinemia: plts down from 150s-->38. Pt has
   not been on heparin during this admission.  ?DIC in setting of elev
   ddimer and fibrin split products, however, plt count not dropping
   precipitously and fibrinogen reassuring.
   -will trend
   -continue no heparin
   -review meds for any that could cause thrombocytopenia
   .
   # Hyperbilirubinemia (mixed indirect and direct) up from normal to 6s
   in setting of normal alk phos and AST/ALT. Hemolysis labs otherwise neg
   with occ schistos, normal LDH and hct not dropping.
   -likely secondary to receiving 9 units of blood, possible resorption of
   significant bruising.
   -however, could also be due to underlying liver process
 will need
   further workup, starting w/ RUQ u/s.
   -stable for transfer to floor - will discuss with receiving team
   regarding futher workup.
   .
   # Ascites - abdomen distended and somewhat firm on exam.  No RP on Ct
   abd/pelvis; worried about possible malignancy.
   -Has not had workup for ascities/increased bili (up to 2ish) in the
   past, also with hypodensity noted in liver
   RUQ yesterday
 shows minimal ascites
   -ascites also likely secondary to fluid overload after resuscitation.
   -continued workup as above.
   .
   #  Acute blood loss anemia/GI bleed/Hypovolemic shock
 hematocrit
   stable
 trending down very slowly, but no signs of active bleed
   currently.
   - As per GI, likely that ischemic colitis in setting of high INR caused
   bleed. Hct has been stable.
   -  switched from PPI drip to IV PPI [**Hospital1 **]
   - now off pressors
   -  hold metoprolol, enalapril and spironolactone as hypotensive
   -  Restarted lasix yesterday - lasix 40 IV BID.  Will recommend
   continued gradual diuresis.
   -  check hematocrit Q12 today
   .
   #  Respiratory failure - patient intubated in the ED for airway
   protection, extubated yesterday successfully.  Still volume overloaded
   on cxr. TBB goal -1L to 1.5L.
   -off vanc/zosyn
   -gave lasix 40IV [**Hospital1 **] and was neg 1.3L yesterday
   .
   # Altered mental status
 now resolved.  Previous symptoms possible
   secondary to paralytics/sedation given in ED and decreased clearance
   given poor perfusion and ARF.  Previous concern re: intracranial
   hemorrhage.
   -No IC hemorrhage on CT
   .
   #  Acute renal failure - Likely secondary to ATN,  she is now back to
   her baseline
   - Will continue to keep MAP>65, monitor UOP and creatinine.
   .
   # Pt brady to 30s while asleep. Was in 40s and 50s for most of the
   night. in afib on ekg which was improved from priors (no ST depression
   in V4, V5).
   -will plan for telemetry bed on transfer to floor.
   .
   #hypernatremia: pt drinking free water aggressively. will continue to
   encourage this
   .
   # FEN: soft solids, replete lytes prn
   .
   # Prophylaxis: pneumoboots, PPI
   .
   # Access: PICC.
   .
   # Code: full code, confirmed with son.
   .
   # Communication: Patient & son [**Name (NI) **] [**Name (NI) 744**] [**Numeric Identifier 8722**]
   .
   # Disposition: ICU  - to floor today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2176-8-7**] 03:39 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full code
   Disposition:  call out to floor today.

2176-08-08 09:56:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Thrombocytopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Trauma line D/C'd after plt transfusion
   PICC placed
   24 Hour Events:
 ARTERIAL LINE - STOP [**2176-8-7**] 02:25 PM
 PICC LINE - START [**2176-8-7**] 03:39 PM
   placed in IR
 TRAUMA LINE - STOP [**2176-8-7**] 11:00 PM
 EKG - At [**2176-8-8**] 06:02 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2176-8-6**] 04:00 PM
   Vancomycin - [**2176-8-7**] 10:01 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2176-8-7**] 06:30 PM
   Pantoprazole (Protonix) - [**2176-8-7**] 11:34 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2176-8-8**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 56 (29 - 81) bpm
   BP: 110/42(57) {94/38(53) - 131/64(79)} mmHg
   RR: 16 (12 - 21) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                  3,012 mL
                                                                  1,100 mL
   PO:
                                                                    870 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  1,942 mL
                                                                    100 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  4,320 mL
                                                                  1,220 mL
   Urine:
                                                                  4,320 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,308 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, tortuous varicose vein in R LE
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   [**2176-8-5**]  06:49 PM
                             [**2176-8-5**]  09:10 PM
                             [**2176-8-6**]  03:46 AM
                             [**2176-8-6**]  08:40 AM
                             [**2176-8-6**]  03:11 PM
                             [**2176-8-7**]  01:30 AM
                             [**2176-8-7**]  02:26 PM
                             [**2176-8-7**]  06:45 PM
                             [**2176-8-7**]  11:15 PM
                             [**2176-8-8**]  02:59 AM
   WBC
   8.1
   5.4
   4.1
   Hct
   29.9
   28.9
   27.7
   26.4
   28.9
   27.2
   26.1
   Plt
   58
   49
   49
   38
   Cr
   2.2
   1.9
   1.6
   1.4
   1.2
   1.1
   TCO2
   21
   23
   Glucose
   125
   114
   141
   132
   134
   94
   Other labs: PT / PTT / INR:15.4/30.5/1.4, CK / CKMB /
   Troponin-T:455/18/0.11, ALT / AST:34/53, Alk Phos / T Bili:61/6.2,
   Differential-Neuts:90.0 %, Band:0.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0
   %, D-dimer:[**Numeric Identifier 8783**] ng/mL, Fibrinogen:237 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.9 g/dL, LDH:245 IU/L, Ca++:8.5 mg/dL, Mg++:1.3 mg/dL, PO4:2.0
   mg/dL
   Assessment and Plan
   Ms. [**Location (un) 8721**] is a 77 yo w/o history of CHF, Afib on coumadin,
   presenting with GI bleeding and hypotension.
   #  Acute blood loss anemia/GI bleed/Hypovolemic shock: Hct as
   stabilized
   # Thrombocytopenia: Continues to drift down.  Suspect some inabilty of
   plt production in the face of dilution from large volume blood
   transfusion
   # Elevated bilirubin: Ultrasound with Doppler.  Hepatitis serologies
   #Hypernatremia: fH20 repletion - ad lib po intake
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2176-8-7**] 03:39 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: